US08431575B2
To a solution of 4-({[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carbonyl]-amino}-methyl)-4-fluoro-piperidine-1-carboxylic acid tert-butyl ester (70 mg) in DCM (2 mL) was added 4 N HCl in dioxane (1.0 mL), and the reaction was stirred for 1 h. The volatiles were removed under reduced pressure, and the residue was triturated with anhydrous ethyl ether and dried under high vacuum to provide 6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (4-fluoro-piperidin-4-ylmethyl)-amide dihydrochloride.

reactant | 4-({[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carbonyl]-amino}-methyl)-4-fluoro-piperidine-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CNC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C32H45FN4O4
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (4-fluoro-piperidin-4-ylmethyl)-amide dihydrochloride | Cl.Cl.FC1(CCNCC1)CNC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | InChI=1S/C27H37FN4O2.2ClH/c1-2-3-9-24-23(20-10-12-22(13-11-20)34-21-7-5-4-6-8-21)18-25(32-31-24)26(33)30-19-27(28)14-16-29-17-15-27;;/h10-13,18,21,29H,2-9,14-17,19H2,1H3,(H,30,33);2*1H
